US07173058B2
To a solution of 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid (100 mg, 0.22 mmol) in tetrahydrofurane was added carbonyldiimidazole (53 mg, 0.33 mmol) at room temperature. The solution was stirred for 2 hours at room temperature. To the mixture was added ammonium hydroxide (0.05 ml, 0.66 mmol). The resulted mixture was stirred at room temperature for 2 hours. Water (5 ml) was added to the reaction mixture. THF was removed in vacuo and the resulted mixture was taken up in ethyl acetate (20 ml). The organic layer was washed with saturated sodium bicarbonate solution (3×10 ml), water (10 ml), brine (10 ml) and was dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was purified by HPLC (acetonitrile:water=45:55) to give 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionamide as a white solid (80 mg, 81%): mp 77–79° C.; 1HNMR (CDCl3): δ 0.32–0.38 (m, 2H), 0.60–0.67 (m, 2H), 1.20–1.31 (m, 1H), 2.27 (s, 3H), 3.03 (dd, J=5.5, 15.5 Hz, 1H), 3.70 (dd, J=8.4, 15.5 Hz, 1H), 5.28–5.40 (m, 1H), 5.74–5.80 (m,1H), 5.79 (dd, J=5.8, 10.5 Hz, 1H), 6.60 (t, JH-F=75 Hz, 1H), 7.09–7.13 (m, 3H), 7.47 (d, J=7.3 Hz, 1H), 7.63 (t, J=7.5 Hz, 1H), 8.75 (d, J=8.5 Hz, 1H), 9.49 (s, 1H). 13C NMR (CDCl3): δ 3.8, 3.9, 10.74, 25.6, 38.1, 51.9, 474.5, 112.5, 114.8, 115.8, 116.7, 118.7, 120.8, 123.5, 125.6, 131.8, 136.7, 137.8, 138.1, 140.8, 151.2, 168.6, 169.9, 170.5, 172.1; Anal. Calcd. for C24H23F2N3O6+0.5 H2O: C, 58.06%; H, 4.87; N, 8.46. Found: C, 57.77; H, 4.60; N, 8.33; 1% H2O.

reactant | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid | 0.22 mmol, 100 mg | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O | C24H22F2N2O7
reactant | carbonyldiimidazole | 0.33 mmol, 53 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 0.66 mmol, 0.05 ml | [OH-].[NH4+]
reactant | Water | 5 ml | O | H2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | 3-(4-acetylamino-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionamide | 80 mg, 81% | C(C)(=O)NC1=C2C(N(C(C2=CC=C1)=O)C(CC(=O)N)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)=O | C24H23F2N3O6
